US05607950
1-(4-Chlorophenethyl)-2-(2-cyano-2,2-diphenylethyl)pyridinium Bromide
A mixture of 2-(2-cyano-2,2-diphenylethyl)pyridine (1.70 g, 6 mmol) (see Preparation 5) and 4-chlorophenethyl bromide (1.10 g, 5 mmol) was heated at 115° C. for 26 hours, allowed to cool to room temperature and triturated with ethanol:ether=1:2 (15 ml). The resulting solid was collected, washed with ether, dried and recrystallised first from water and then from ether/2-propanol to give the title compound (0.37 g, 14%) as colourless crystals, m.p. 210°-211° C.

reactant | 2-(2-cyano-2,2-diphenylethyl)pyridine | 6 mmol, 1.70 g | C(#N)C(CC1=NC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16N2
reactant | 4-chlorophenethyl bromide | 5 mmol, 1.10 g | ClC1=CC=C(CCBr)C=C1 | C8H8BrCl
product | 1-(4-Chlorophenethyl)-2-(2-cyano-2,2-diphenylethyl)pyridinium Bromide | 0.37 g, 14% | [Br-].ClC1=CC=C(CC[N+]2=C(C=CC=C2)CC(C2=CC=CC=C2)(C2=CC=CC=C2)C#N)C=C1 | InChI=1S/C28H24ClN2.BrH/c29-26-16-14-23(15-17-26)18-20-31-19-8-7-13-27(31)21-28(22-30,24-9-3-1-4-10-24)25-11-5-2-6-12-25;/h1-17,19H,18,20-21H2;1H/q+1;/p-1
